US07829580B2
(E)-3-{[1-(Carboxymethyl)-1H-imidazol-4-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 2-897)
To a solution of (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-imidazol-4-yl]methylidene}-4-sulfanylpiperidine hydrochloride (72.6 mg) in a mixed solvent of tetrahydrofuran (2 ml) and water (1 ml) was added 1N aqueous sodium hydroxide solution (0.55 ml) with stirring under ice-cooling, and the resulting mixture was stirred at the same temperature for 3 minutes. To the reaction mixture was added 1N hydrochloric acid solution (1.00 ml). The reaction mixture was concentrated in vacuo, and the residue was purified by chromatography on a silica gel column using a mixed solvent of methanol and dichloromethane (1:4) as the eluent to afford the title compound (55.4 mg, yield: 80%) as a pale yellow solid.

reactant | (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-imidazol-4-yl]methylidene}-4-sulfanylpiperidine hydrochloride | 72.6 mg | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C=1N=CN(C1)CC(=O)OCC)=O
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 0.55 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1.00 ml | Cl | ClH
solvent | water | 1 ml | O | H2O
product | (E)-3-{[1-(Carboxymethyl)-1H-imidazol-4-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride | 55.4 mg, yield: 80% | Cl.C(=O)(O)CN1C=NC(=C1)\C=C\1/CN(CCC1S)C(C(=O)C1CC1)C1=C(C=CC=C1)F | InChI=1S/C22H24FN3O3S.ClH/c23-18-4-2-1-3-17(18)21(22(29)14-5-6-14)26-8-7-19(30)15(10-26)9-16-11-25(13-24-16)12-20(27)28;/h1-4,9,11,13-14,19,21,30H,5-8,10,12H2,(H,27,28);1H/b15-9+;
